US05653911
A mixture of (3-fluoropropyl)triphenylphosphonium bromide (15.1 g, 37.4 millimols) with THF (70 ml) was cooled down to -20° C., followed by adding t-BuOK (4.2 g, 37.4 millimols) to the mixture, stirring for one hour, dropwise adding to the mixture, a THF (100 ml) solution of trans-4-(trans-4-(2-(4-cyanophenyl)ethyl)cyclohexyl)cyclohexanecarbaldehyde (11.0 g, 34.0 millimols) so as to keep the temperature at -20° C. or lower, stirring the mixture at the same temperature for 2 hours, and treating the reaction product in the same manner as in Example 2, except that the quantity of ethyl acetate was made 500 ml, to obtain raw 4-(2-(trans-4-(trans-4-(4-fluorobutenyl)cyclohexyl)cyclohexyl)ethyl)benzonitrile (11.3 g).

reactant | (3-fluoropropyl)triphenylphosphonium bromide | 37.4 millimols, 15.1 g | [Br-].FCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | THF | 70 ml | C1CCOC1 | C4H8O
reactant | t-BuOK | 37.4 millimols, 4.2 g | CC(C)(C)[O-].[K+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | trans-4-(trans-4-(2-(4-cyanophenyl)ethyl)cyclohexyl)cyclohexanecarbaldehyde | 34.0 millimols, 11.0 g | C(#N)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=O | C22H29NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-(trans-4-(trans-4-(4-fluorobutenyl)cyclohexyl)cyclohexyl)ethyl)benzonitrile | 11.3 g | FCCC=C[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C#N)C=C1 | C25H34FN
